US09169254B2
A 5 N aqueous sodium hydroxide solution (6.6 ml, 33 mmol) was added to a solution of 4-{2-[2-(3-but-3-enyloxy-5-trifluoromethyl-phenyl)-4-oxo-1,3,8-triaza-spiro[4.5]dec-1-ene-8-sulfonyl]-ethyl}-3-methyl-benzoic acid methyl ester (2.10 g) in methanol (22 ml), and the mixture was stirred at room temperature for two hours. The reaction solution was cooled and then quenched with 2 N hydrochloric acid (25 ml), followed by extraction with ethyl acetate. The organic layer was washed with water and saturated brine, dried over anhydrous sodium sulfate and then concentrated under reduced pressure to give 4-{2-[2-(3-but-3-enyloxy-5-trifluoromethyl-phenyl)-4-oxo-1,3,8-triaza-spiro[4.5]dec-1-ene-8-sulfonyl]-ethyl}-3-methyl-benzoic acid (1.78 g).

reactant | sodium hydroxide | 33 mmol, 5 N, 6.6 ml | [OH-].[Na+]
reactant | 4-{2-[2-(3-but-3-enyloxy-5-trifluoromethyl-phenyl)-4-oxo-1,3,8-triaza-spiro[4.5]dec-1-ene-8-sulfonyl]-ethyl}-3-methyl-benzoic acid methyl ester | 2.10 g | COC(C1=CC(=C(C=C1)CCS(=O)(=O)N1CCC2(C(NC(=N2)C2=CC(=CC(=C2)C(F)(F)F)OCCC=C)=O)CC1)C)=O | C29H32F3N3O6S
solvent | methanol | 22 ml | CO | CH4O
product | 4-{2-[2-(3-but-3-enyloxy-5-trifluoromethyl-phenyl)-4-oxo-1,3,8-triaza-spiro[4.5]dec-1-ene-8-sulfonyl]-ethyl}-3-methyl-benzoic acid | 1.78 g | C(CC=C)OC=1C=C(C=C(C1)C(F)(F)F)C1=NC2(C(N1)=O)CCN(CC2)S(=O)(=O)CCC2=C(C=C(C(=O)O)C=C2)C | C28H30F3N3O6S
